US07141598B2
Production of 3-hydroxy-1-(1-trityl-1H-imidazol-4-yl)-1-propanone
1-(1-Trityl-1H-imidazol-4-yl)-1,3-propanediol (135.9 g) was dissolved in dichloromethane (1.76 L) and manganese dioxide (262 g) was added, which was followed by vigorous stirring at room temperature for 66 h. An insoluble material was filtered off by celite filtration and the filtrate was concentrated to dryness. The residue was suspended in ethyl acetate (1.5 L) and an aqueous solution (1 M; 3.5 L) of Rochelle salt was added, which was followed by stirring with a mechanical stirrer for 3 days. The reaction mixture was partitioned, and the organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The aqueous layer was extracted again with ethyl acetate and treated in the same manner. The organic layer was combined and the solvent was evaporated to give the title compound (129.3 g) as a pale-brown caramel.

reactant | 1-(1-Trityl-1H-imidazol-4-yl)-1,3-propanediol | 135.9 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C(CCO)O | C25H24N2O2
solvent | dichloromethane | 1.76 L | ClCCl | CH2Cl2
catalyst | manganese dioxide | 262 g | [O-2].[O-2].[Mn+4]
product | 3-hydroxy-1-(1-trityl-1H-imidazol-4-yl)-1-propanone | 129.3 g | OCCC(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H22N2O2
